US07816468B2
A VF2/PMVE/TFE copolymer fluoroelastomer was prepared by a continuous emulsion polymerization process, carried out at 105° C. in a well-stirred 2.0-liter stainless steel liquid full reaction vessel. An aqueous solution, consisting of 1.98 g/hour (g/h) ammonium persulfate initiator and 0.79 g/h sodium hydroxide, was fed to the reactor at a rate of 4 L/hour. The reactor was maintained at a liquid-full level at a pressure of 6.2 MPa by means of a backpressure control valve in the effluent line. After 30 minutes, polymerization was initiated by introduction of a gaseous monomer mixture consisting of 569 g/h vinylidene fluoride (VF2), 393 g/h perfluoro(methyl vinyl ether) (PMVE), and 101 g/h tetrafluoroethylene (TFE), fed through a diaphragm compressor. Fifteen minutes after polymerization commenced, 4-bromo-3,3,4,4-tetrafluoro-1-butene (BTFB) was fed into the reactor at a rate of 10.0 g/h. After a further 1.75 hours, collection of effluent dispersion was begun and collection continued for 5 hours. The effluent polymer latex, which had a pH of 8.64 and contained 20.7 wt. % solids, was separated from residual monomers in a degassing vessel at atmospheric pressure.

reactant | ammonium persulfate | S(=O)(=O)([O-])OOS(=O)(=O)[O-].[NH4+].[NH4+]
reactant | sodium hydroxide | [OH-].[Na+]
reactant | vinylidene fluoride | C(=C)(F)F | C2H2F2
reactant | perfluoro(methyl vinyl ether) | C(=C(F)F)(OC(F)(F)F)F | C3F6O
reactant | tetrafluoroethylene | FC(=C(F)F)F | C2F4
reactant | 4-bromo-3,3,4,4-tetrafluoro-1-butene | BrC(C(C=C)(F)F)(F)F | C4H3BrF4
product | PMVE TFE | C(=C(F)F)(OC(F)(F)F)F.FC(=C(F)F)F | InChI=1S/C3F6O.C2F4/c4-1(5)2(6)10-3(7,8)9;3-1(4)2(5)6
